US03998894
A mixture of 90 parts of styrene, 182 parts of o-chlorostyrene, 118 parts of o-chloroethylbenzene and 0.5 part of phenothiazine is added to 600 parts of 100 per cent strength by weight phosphoric acid at 35° to 40° C over 5 hours. After completion of the addition, the mixture is stirred for one hour at 35° to 40° C. The organic phase is separated off, washed with 200 parts of 3 per cent strength by weight sodium hydroxide solution and fractionated at 10 mm Hg. 19 parts of 1-methyl-3-phenylindan, 120 parts of 1-methyl-3-(o-chloro)-phenylindan (b.p. 165° to 168° C (10 mm), nD25 : 1.5890) and 22 parts of 1-methyl-3-(o-chloro)-phenyl-7-chloroindan (b.p. 195° to 200° C (10 mm)) are isolated.

reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | o-chlorostyrene | ClC1=C(C=C)C=CC=C1 | C8H7Cl
reactant | o-chloroethylbenzene | ClCCC1=CC=CC=C1 | C8H9Cl
reactant | phenothiazine | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | 1-methyl-3-phenylindan | CC1CC(C2=CC=CC=C12)C1=CC=CC=C1 | C16H16
